US08809369B2
A mixture of 2-(3-bromo-phenyl)-6-fluoro-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester (500 mg, 1.28 mmol), pyrrolidine (140 mg, 1.92 mmol), palladium (II) acetate (14.4 mg, 0.064 mmol), xantphos (44.4 mg, 0.077 mmol) and cesium carbonate (830 mg, 2.56 mmol) in toluene (10 mL) was heated for 3 h at 120° C. After colling to room temperature, the mixture was treated with ethyl acetate (50 mL) and washed with water (20 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo. Purification on flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company) (50% ethyl acetate/hexanes) to afford 6-fluoro-4,4-dimethyl-2-(3-pyrrolidin-1-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester (0.32 g, 65%) as a white solid: MS (ESI) M+1=383.3.

reactant | 2-(3-bromo-phenyl)-6-fluoro-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester | 1.28 mmol, 500 mg | COC(=O)C=1C=C(C=C2C(CC(NC12)C1=CC(=CC=C1)Br)(C)C)F | C19H19BrFNO2
reactant | pyrrolidine | 1.92 mmol, 140 mg | N1CCCC1 | C4H9N
reactant | cesium carbonate | 2.56 mmol, 830 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium (II) acetate | 0.064 mmol, 14.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | xantphos | 0.077 mmol, 44.4 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | 6-fluoro-4,4-dimethyl-2-(3-pyrrolidin-1-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester | 0.32 g, 65% | COC(=O)C=1C=C(C=C2C(CC(NC12)C1=CC(=CC=C1)N1CCCC1)(C)C)F | C23H27FN2O2
